US04125539
Preparation of N-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)formamide
To a stirred mixture of N-(5,6-dihydrospiro[benzo[b]thiophen-7(4H), 2'-[1,3]dithiolan]-4-yl)formamide (1.5 g), acetonitrile (20 ml) and water is added calcium carbonate (1.65 g) and mercuric chloride (3.0 g). The mixture is stirred at room temperature for 35 minutes and acetonitrile is added. The solid is filtered and washed with acetonitrile. The filtrate (100 ml) is evaporated to dryness to afford the title compound.

reactant | N-(5,6-dihydrospiro[benzo[b]thiophen-7(4H), 2'-[1,3]dithiolan]-4-yl)formamide | 1.5 g | S1C2(SCC1)CCC(C1=C2SC=C1)NC=O | C11H13NOS3
reactant | water | O | H2O
reactant | calcium carbonate | 1.65 g | C([O-])([O-])=O.[Ca+2]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(4,5,6,7-tetrahydro-7-oxobenzo[b]thien-4-yl)formamide | O=C1CCC(C2=C1SC=C2)NC=O | C9H9NO2S
